US07202363B2
N-(4-{4-amino-7-[5-(hydroxymethyl)-2-furyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide
A mixture of N-{4-[4-amino-7-(5-formyl-2-furyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide (0.060 g, 0.12 mmol) and sodium borohydride (0.013 g, 0.344 mmol) in N,N-dimethylformamide (4 mL) and methanol (4 mL) was stirred at ambient temperature for 18 hours. The solvent was removed in vacuo and the residue was partitioned between dichloromethane (10 mL) and 0.1 N hydrochloric acid (10 mL). The layers were separated and the aqueous layer was extracted with dichloromethane (3×10 mL). The combined organic layers were dried over anhydrous magnesium sulfate and the solvent was removed in vacuo. The residue was purified by preparative RP-HPLC (Rainin C18, 8 mm, 300 Å, 25 cm; 40% acetonitrile—0.1M ammonium acetate isocratic for 5 minutes, then 40–100% acetonitrile—0.1M ammonium acetate over 30 min, 21 ml/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyophilized to give the title compound (2.1 mg, 0.004 mmol) as a white solid.

reactant | N-{4-[4-amino-7-(5-formyl-2-furyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide | 0.12 mmol, 0.060 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C=2OC(=CC2)C=O | C29H22N4O4S
reactant | sodium borohydride | 0.344 mmol, 0.013 g | [BH4-].[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | methanol | 4 mL | CO | CH4O
product | N-(4-{4-amino-7-[5-(hydroxymethyl)-2-furyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.004 mmol, 2.1 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C=2OC(=CC2)CO | C29H24N4O4S
